US07786108B2
Step 2. (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-amino]-tetrazol-2-yl}-ethanol
Dissolve (S)-9-{(3,5-bis-trifluoromethyl-benzyl)-[2-(2-tert-butoxy-ethyl)-2H-tetrazol-5-yl]-amino}-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (0.140 mmol) in 4 M hydrochloric acid/dioxane (10 mL). After stirring overnight at room temperature, neutralize the reaction with aqueous sodium carbonate and dilute with ethyl acetate (20 mL). Dry the organic portion over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the product over silica gel eluting with ethyl acetate/hexane (10-40%) to provide the title compound as an oil.

reactant | (S)-9-{(3,5-bis-trifluoromethyl-benzyl)-[2-(2-tert-butoxy-ethyl)-2H-tetrazol-5-yl]-amino}-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 0.140 mmol | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NN(N2)CCOC(C)(C)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C33H40F6N6O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid dioxane | 4 M, 10 mL | Cl.O1CCOCC1
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-amino]-tetrazol-2-yl}-ethanol | FC(C=1C=C(CN(C=2N=NN(N2)CCO)[C@H]2CCCNC=3C2=CC=2COCC2C3)C=C(C1)C(F)(F)F)(F)F | C24H24F6N6O2
